US04920129
To a solution of 2,3-diaminopyridine (1.09 g) in methanol (22 ml) was added 2-methyl-6-methoxycarbonylaminobenzyl chloride (2.14 g) and potassium carbonate (1.38 g) at room temperature and the mixture was stirred for 1.5 hours. The insoluble material was removed by filtration and methanol in the filtrate was evaporated under reduced pressure. The residue was subjected to column chromatography on silica gel (30 g) and eluted with a mixture of chloroform and methanol (100:1) to give a crystalline product. The crystals were triturated with diisopropyl ether to give 2-amino-3-(2-methyl-6-methoxycarbonylaminobenzylamino)pyridine (1.44 g).

reactant | 2,3-diaminopyridine | 1.09 g | NC1=NC=CC=C1N | C5H7N3
reactant | 2-methyl-6-methoxycarbonylaminobenzyl chloride | 2.14 g | CC1=C(CCl)C(=CC=C1)NC(=O)OC | C10H12ClNO2
reactant | potassium carbonate | 1.38 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 22 ml | CO | CH4O
product | 2-amino-3-(2-methyl-6-methoxycarbonylaminobenzylamino)pyridine | 1.44 g | NC1=NC=CC=C1NCC1=C(C=CC=C1NC(=O)OC)C | C15H18N4O2
